data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_152366_0,[C:1]([N:5]([N:6]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[C:7]([C:4]([H:18])([H:19])[H:20])=[C:8]([H:21])[H:22])([H:9])([H:10])[H:11]>>[C:1](/[N:5]=[C:7](/[C:4]([H:18])([H:19])[H:20])[C:8]([N:6]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([H:21])[H:22])([H:9])([H:10])[H:11],63.075045000014
MR_151261_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:5]([C:6]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[O:9][H:11])=[N:8]\[H:12])=[N:7]\[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:5]([C:6]([C:4]([H:19])([H:20])[H:21])=[O:9])=[N:8]\[H:12])[N:7]([H:10])[H:11],49.86491499997996
MR_295808_2,[C:1](=[C:4]([C:3]([N:5]([H:11])[H:12])=[O:8])[O:9][C:2]([O:6][H:10])=[O:7])([H:13])[H:14]>>[C:1]([C:2]([O:6][H:10])=[O:7])([C:4]([C:3]([N:5]([H:11])[H:12])=[O:8])=[O:9])([H:13])[H:14],54.25239499999577
MR_143531_1,[C:1]([N:2]([N:3]([H:7])[H:8])/[C:5](=[N:6]/[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:6]([N:4]([H:9])[H:10])/[C:5](=[N:2]\[N:3]([H:7])[H:8])[H:11])([H:12])([H:13])[H:14],67.1462650000079
MR_530787_1,[C:1]([N:3]([N:7]=[O:8])[H:10])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](/[O:6][H:9])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:3]([H:10])[C:4]1([C:2]([H:14])([H:15])[H:16])[C:5]([O:6][H:9])([N:7]=[O:8])[H:13],60.97731249999555
MR_631809_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([O:7][C:2]([H:13])([H:14])[H:15])[H:8])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12]>>[C:1]([N:4]([C:3]([H:16])([H:17])[H:18])[H:8])([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[O:7][C:2]([H:13])([H:14])[H:15],61.5050400000186
MR_82350_1,[C:1]([N:3]([O:7][N:4]([H:9])[H:10])[H:8])([C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:3]([H:8])[C:5]1([C:2]([H:13])([H:14])[H:15])[C:6]([O:7][N:4]([H:9])[H:10])([H:16])[H:17],53.80059499999504
MR_538268_0,[C:1](/[C:2](=[N:4]/[N:5][H:8])[N:6][H:9])([C:3](=[O:7])[H:10])([H:11])[H:12]>>[C:1](/[C:2](=[N:6]\[H:9])[H:10])([C:3](/[N:4]=[N:5]\[H:8])=[O:7])([H:11])[H:12],65.93142500004319
MR_305662_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:7]([N:5]([N:6]([C:4]([H:20])([H:21])[H:22])[H:11])[H:10])=[O:9])[N:8]([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:7](=[N:5]/[N:6]([C:4]([H:20])([H:21])[H:22])[H:10])[O:9][H:11])[N:8]([H:12])[H:13],50.57649999996684
MR_146139_2,[C:1]1([H:9])([H:10])[C:6]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])[N:7]1[H:8]>>[C:1]([N:5]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:7]/[H:8])([H:9])[H:10],67.51147000001325
MR_668948_0,[C:1](/[C:3](=[C:2](/[N:4]([H:9])[H:10])[N:7]=[C:5]([H:14])[H:15])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:6][H:8])[C:2]([N:4]([H:9])[H:10])=[N:7][C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],33.78146249999517
MR_503811_0,[C:1](/[C:3](=[C:4](\[O:6]/[N:8]=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])[O:7][H:9])([H:12])([H:13])[H:14]>>[C:1](=[C:3]([C:4]1([H:10])[O:6][N:8]1[C:5]([C:2]([H:15])([H:16])[H:17])([H:11])[H:13])[O:7][H:9])([H:12])[H:14],52.697449999998014
MR_155088_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[N:5]([H:10])[H:11])([N:6]=[O:8])[H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([H:9])[C:4]([C:3]([H:15])([H:16])[H:17])([N:6]=[O:8])[N:7]1[N:5]([H:10])[H:11],62.514687500002
MR_448804_0,[C:1]([C:3]([C:2]1([C:7]([H:20])([H:21])[H:22])[C:5]([H:15])([H:16])[C:4]([H:13])([H:14])[C:8]1=[O:10])([H:11])[H:12])([C:6]([H:17])([H:18])[H:19])=[O:9]>>[C:1]12([C:6]([H:17])([H:18])[H:19])[C:3]([H:11])([H:12])[C:2]([C:7]([H:20])([H:21])[H:22])([C:5]([H:15])([H:16])[C:4]1([H:13])[H:14])[C:8](=[O:10])[O:9]2,65.73689999999928
MR_421700_1,[C:1](/[C:4]([N:3]([O:7][H:8])[H:9])=[C:5](/[C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:3]\[H:9])[C@:5]([C:2]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[O:7][H:8])([H:12])([H:13])[H:14],23.75464000002097
MR_217077_0,[C:1]([N:3]([C:2]([H:11])([H:12])[H:13])[C:4](=[O:6])[H:10])([O:5][H:7])([H:8])[H:9]>>[C:1]([O:5][H:7])([O:6]/[C:4](=[N:3]/[C:2]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9],60.56127999997585
MR_639078_0,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([C:6]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])[N:7]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:5]1([C:2]([H:14])([H:15])[H:16])[C:4]([N:7]([H:9])[H:10])=[C:6]([C:3]([H:17])([H:18])[H:19])[C:8]1([H:20])[H:21])([H:11])([H:12])[H:13],40.79252000002157
MR_101728_1,[C@:1]([C@:2]([C:4]([H:17])([H:18])[H:19])([N:6]([H:12])[H:13])[H:9])([C:3]([H:14])([H:15])[H:16])([O:7][N:5]([H:10])[H:11])[H:8]>>[C@@:1]([C@@:2]([C:4]([H:17])([H:18])[H:19])([O:7][N:5]([H:10])[H:11])[H:9])([C:3]([H:14])([H:15])[H:16])([N:6]([H:12])[H:13])[H:8],73.02907749999363
